US08026257B2
7-(((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-1-methyl-5-(trifluoromethyl)-1H-indazole.
To a solution of 7-(((4-(4-fluorophenyl)piperidin-4-yl)methoxy)methyl)-1-methyl-5-(trifluoromethyl)-1H-indazole (35 mg, 0.083 mmol) and sodium cyanoborohydride (10.4 mg, 0.166 mmol) in acetonitrile (1 mL) at room temperature was added formalin (50 μL). To this was added 1 drop of acetic acid. After 5 min, a second drop of acetic acid was added and the reaction stirred at room temperature for 15 min. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was washed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 15 mg (42%). 1H-NMR (CDCl3, 500 MHz) δ 8.01 (s, 1H), 7.95 (s, 1H), 7.29 (s, 1H), 7.14 (m, 2H), 6.87 (m, 2H), 4.68 (s, 2H), 3.98 (s, 3H), 3.44 (s, 2H), 2.50 (m, 2H), 2.00-2.25 (m, 7H), 1.91 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 162.2, 160.2, 139.4, 133.9, 128.62, 128.56, 124.8, 124.6 (q, J=272 Hz), 124.5 (q, J=2.9 Hz), 122.6 (q, J=33 Hz), 121.1, 119.7 (q, J=4.8 Hz), 115.0, 114.9, 78.7, 70.5, 51.8, 46.2, 40.2, 38.3, 32.6. Mass spec.: 436.15 (MH)+. Accurate mass spec.: m/z 436.2008 [MH]+, Δ=0.9 ppm.

reactant | 7-(((4-(4-fluorophenyl)piperidin-4-yl)methoxy)methyl)-1-methyl-5-(trifluoromethyl)-1H-indazole | 0.083 mmol, 35 mg | FC1=CC=C(C=C1)C1(CCNCC1)COCC=1C=C(C=C2C=NN(C12)C)C(F)(F)F | C22H23F4N3O
reactant | sodium cyanoborohydride | 0.166 mmol, 10.4 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 50 μL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 7-(((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-1-methyl-5-(trifluoromethyl)-1H-indazole | FC1=CC=C(C=C1)C1(CCN(CC1)C)COCC=1C=C(C=C2C=NN(C12)C)C(F)(F)F | C23H25F4N3O
